US07544704B2
c) 2-Chloro-4-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine
A mixture of 4-ethynyl-5-methyl-3-phenyl-isoxazole (110 mg, 0.60 mmol), 2-chloro-4-iodopyridine (172 mg, 0.72 mmol), triethylamine (209 μl, 1.50 mmol) and bis(triphenylphosphine)palladium(II) chloride (13 mg, 0.02 mmol) in N,N-dimethylformamide (1.2 mL) was evaporated and flushed with argon. Cuprous iodide (2 mg, 0.01 mmol) was added and the reaction mixture was stirred for 1.5 h at 90° C. before it was cooled to ambient temperature and separated between aqueous sodium hydroxide (1 M, 20 mL) and ethyl acetate (30 mL). The aqueous layer was extracted with ethyl acetate (30 mL) and the combined organic layers were washed with aqueous sodium hydroxide (1 M, 20 mL), dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 80:20) afforded the title compound (160 mg, 91%) as a colorless oil. MS: m/e=295.0/297.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.60 mmol, 110 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-chloro-4-iodopyridine | 0.72 mmol, 172 mg | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | triethylamine | 1.50 mmol, 209 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 13 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Chloro-4-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine | 160 mg, 91% | ClC1=NC=CC(=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C17H11ClN2O
